US06747023B1
1-[(5-Bromopyrimidin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thiophen-2-yl)sulfonyl]-2-(2-methylpropyl)piperazine
To an N,N-dimethylformamide solution (60 ml) of 1-[(6-chlorobenzo[b]thiophen-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine (2.55 mg) were added bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (607 mg, 1.17 mmol), (4-bromopyrimidin-2-yl)carboxylic acid (237 mg) and triethylamine (118 mg), followed by stirring at room temperature for 13 hours. After completion of the reaction, the solvent was distilled off under reduced pressure. Distilled water and methylene chloride were added to the residue. The water layer thus obtained was extracted three times with methylene chloride. The organic layers were combined and washed with distilled water. After drying over anhydrous magnesium sulfate, the solvent was distilled under off under reduced pressure. The residue was subjected to chromatography on a silica gel column (methanol:methylene chloride=1:100), followed by crystallization from ethyl acetate—diethyl ether, whereby the title compound (326 mg) was obtained as brown crystals.

reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | 1-[(6-chlorobenzo[b]thiophen-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine | 2.55 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(NCC2)CC(C)C)C1 | C16H21ClN2O2S2
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.17 mmol, 607 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | (4-bromopyrimidin-2-yl)carboxylic acid | 237 mg | BrC1=NC(=NC=C1)C(=O)O | C5H3BrN2O2
solvent | triethylamine | 118 mg | C(C)N(CC)CC | C6H15N
product | 1-[(5-Bromopyrimidin-2-yl)carbonyl]-4-[(6-chlorobenzo[b]thiophen-2-yl)sulfonyl]-2-(2-methylpropyl)piperazine | BrC=1C=NC(=NC1)C(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)CC(C)C | C21H22BrClN4O3S2
